US05498746
Preparation of 2-nitro-4,5-dihydroxyphenylacetonitrile
0.75 g of palladium at a concentration of 10% on charcoal, to which 3 g of charcoal have been added, followed by 0.02 mole (7.5 g) of 2-nitro-4,5-dibenzyloxyphenylacetonitrile, are added with stirring to 30 ml of 96° C. ethanol containing 15 ml of cyclohexene; the reaction mixture is heated under reflux for 1 hour.

reactant | charcoal | 3 g | C | CH4
reactant | 2-nitro-4,5-dibenzyloxyphenylacetonitrile | 0.02 mole, 7.5 g | [N+](=O)([O-])C1=C(C=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC#N | C22H18N2O4
reactant | cyclohexene | C1=CCCCC1 | C6H10
catalyst | palladium | 0.75 g | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-nitro-4,5-dihydroxyphenylacetonitrile | [N+](=O)([O-])C1=C(C=C(C(=C1)O)O)CC#N | C8H6N2O4
